US07259179B2
1-[4-(4-Methylpiperazin-1-yl)phenyl]ethanone
In a procedure identical to Example 53, 4-bromoacetophenone was reacted with N-methylpiperazine in the presence of potassium carbonate, copper and copper iodide to furnish the desired product in 82% yield.

reactant | 4-bromoacetophenone | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
catalyst | copper iodide | [Cu](I)I
product | 1-[4-(4-Methylpiperazin-1-yl)phenyl]ethanone | 82% yield | CN1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C13H18N2O
